US07112598B2
3-Acetyl-6-chloro-2-[2-(3-(N-isopropyl-N-(2-phenylcarboxyethyl)-amino)propoxy)-5-methoxyphenyl]benzothiazoline Hydrochloride (Compound No. 18-1)
Benzoyl chloride (0.20 ml, 1.20 mmol) was added to a solution of 3-acetyl-6-chloro-2-[2-(3-(N-(2-hydroxyethyl)-N-isopropylamino)-propoxy)-5-methoxyphenyl]benzothiazoline hydrochloride (300 mg, 0.58 mmol) and pyridine (0.39 ml, 4.70 mmol) in methylene chloride (0.5 ml) under ice-cooling. The mixture was stirred at the temperature for two hours, then a saturated aqueous sodium hydrogencarbonate solution (50 ml) was added to the reaction mixture, and the whole was extracted with ethyl acetate (50 ml). The ethyl acetate layer was washed with a 10% aqueous citric acid solution (50 ml) and dehydrated with anhydrous magnesium sulfate, and ethyl acetate was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (mobile phase: ethyl acetate/methanol=10/1). The obtained oily matter was dissolved in ethyl acetate (1 ml), and a 4 N solution (0.5 ml) of hydrogen chloride in ethyl acetate was added thereto under ice-cooling. The mixture was concentrated under reduced pressure to give 211 mg (62%) of the target compound.

reactant | Benzoyl chloride | 1.20 mmol, 0.20 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3-acetyl-6-chloro-2-[2-(3-(N-(2-hydroxyethyl)-N-isopropylamino)-propoxy)-5-methoxyphenyl]benzothiazoline hydrochloride | 0.58 mmol, 300 mg | Cl.C(C)(=O)N1C(SC2=C1C=CC(=C2)Cl)C2=C(C=CC(=C2)OC)OCCCN(C(C)C)CCO
reactant | pyridine | 4.70 mmol, 0.39 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrogencarbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
product | 3-Acetyl-6-chloro-2-[2-(3-(N-isopropyl-N-(2-phenylcarboxyethyl)-amino)propoxy)-5-methoxyphenyl]benzothiazoline Hydrochloride | 211 mg, 62% | Cl.C(C)(=O)N1C(SC2=C1C=CC(=C2)Cl)C2=C(C=CC(=C2)OC)OCCCN(CC(C2=CC=CC=C2)C(=O)O)C(C)C | InChI=1S/C31H35ClN2O5S.ClH/c1-20(2)33(19-26(31(36)37)22-9-6-5-7-10-22)15-8-16-39-28-14-12-24(38-4)18-25(28)30-34(21(3)35)27-13-11-23(32)17-29(27)40-30;/h5-7,9-14,17-18,20,26,30H,8,15-16,19H2,1-4H3,(H,36,37);1H
